Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
Ativan / Amoxicillin / Bactrim / Codeine / ibuprofen / Lamictal 
/ naproxen / Tetanus Toxoid,Fluid / Cephalexin / Peanuts / Sulfa 
(Sulfonamide Antibiotics) / golytely / citrate of magnesia / 
Lithium
 
Attending: ___.
 
Chief Complaint:
diverticulitis
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ with multiple medical problems, including ESRD ___ lithium 
toxicity on PD , admitted to ___ on ___ with abdominal 
pain and fever to 102 at home. She had a prior admission on 
___ with similar symptoms; at that time the workup was 
negative and she was give levofloxacin x5 days for presumptive 
pneumonia. On representation to ___, her WBC was elevated 
to 16.5. Peritoneal fluid was sent and demosntrated ___ WBC with 
no organisms on gram stain. A CT scan was obtained with 
demonstrated diverticulitis and likely contained perforation 
with concern for pelvic abscess. She was started on levaquin and 
flagyl and recommended for percutanous drainage. However given 
her extensive past surgical history here at ___, the family 
requested transfer to ___ for further work up and 
management.

ROS: Endorses 20lb wt loss over the past few months
 
Past Medical History:
PMH: tracheostomy ___ for prolonged respiratory failure, 
hyponatremic seizure following GoLytely prep ___, ESRD for 
lithium toxicity, on HD, bipolar, GERD, HTN, breast cancer, 
diverticulosis 

PSH: parathyroidectomy with reimplantation in left arm, left 
foot surgery in ___, right knee surgery in ___, lumpectomy for 
breast cancer (DCIS), status post radiation, repeat mammograms 
were all negative, history of tonsillectomy in the past. 

 
Social History:
___
Family History:
Mother with ovarian CA
Father with CAD

 
Physical Exam:
VS: 99.1  73  117/64  18  100%ra
PE:
 Gen: A&Ox3, NAD, pleasant and comfortable appearing
 CV: RRR
 Pulm: CTAB, easy WOB
 Abd: abd soft, mildly distended. PD catheter site in RLQ. 
Mildly
TTP RUQ/LUQ/LLQ, worst in LLQ.
 Ext: WWP, trace periph edema bilat, L > R
 
Pertinent Results:
___ 09:15PM   GLUCOSE-87 UREA N-52* CREAT-10.1*# 
SODIUM-132* POTASSIUM-4.2 CHLORIDE-93* TOTAL CO2-29 ANION GAP-14
___ 09:15PM   ALT(SGPT)-17 AST(SGOT)-15 ALK PHOS-311* TOT 
BILI-0.2
___ 09:15PM   ALBUMIN-2.5* CALCIUM-7.6* PHOSPHATE-4.3 
MAGNESIUM-1.6
___ 09:15PM   LITHIUM-0.9
___ 09:15PM   WBC-5.4 RBC-2.32*# HGB-7.4*# HCT-25.1*# 
MCV-108* MCH-31.9 MCHC-29.4* RDW-19.1*
___ 09:15PM   NEUTS-77.4* LYMPHS-12.7* MONOS-7.0 EOS-2.7 
BASOS-0.1
___ 09:15PM   ___ PTT-31.5 ___
 
Brief Hospital Course:
Ms. ___ was admitted to the Transplant Surgery Service 
under the care of Dr. ___ on ___. She 
was transferred from ___ in ___ with 
a colonic microperforation in the setting of diverticulitis. 
This was of particular concern given her concurrent use of 
peritoneal dialysis for renal replacement therapy for her long 
standing history of ESRD. Upon admission, physical exam and 
vital signs were un concerning for systemic infection. She was 
afebrile, did not have evidence of cellulitis around her PD 
catheter exit site, and did not have leukocytosis.

Levofloxacin and metronidazole were administered to treat Ms. 
___ diverticulitis. She was kept NPO. Abdominal pain 
resolved. Nephrology followed and managed the peritoneal 
dialysis adding heparin for fibrin in dialysate. Diet was 
resumed and well tolerated. 

Throughout the course of her admission, Ms. ___ home 
medications to treat her psychiatric and medical co morbidities 
were continued. Vital signs remained stable, she was pain free 
and was oob to chair with assist. 

She will f/u with her local nephrologist. Vitamin D and 
calcitriol were started and Cinacalcet stopped. Atenolol and 
Nifedipine were also stopped for SBPs in ___. Heart rates ranged 
between ___. She was instructed to f/u with her 
nephrologist. 
 
Medications on Admission:
fluoxetine 20 qam, lithium 150 qam 150qpm prn, goal level 0.7. 
antenerol 25 qpm. zyprexa 10mg qpm, ___ prn for agitation, 
dialyvite 800 qam, iron 65mg qd, prilosec 20mg BID, topiramate 
25mg qpm, colace 100mg BID, procrit 40,000 ___, sensipar 30mg 
qd, senna prn, renvela TID with meals
 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Fluoxetine 20 mg PO DAILY 
3. Lithium Carbonate 150 mg PO DAILY 
4. OLANZapine 10 mg PO DAILY 
additional doses PRN agitation 
5. Omeprazole 20 mg PO BID 
6. Calcitriol 0.25 mcg PO DAILY 
RX *calcitriol 0.25 mcg 1 capsule(s) by mouth once a day Disp 
#*30 Capsule Refills:*2
7. Heparin Flush (1000 units/mL) 1000 UNIT DWELL QID 
each 1 liter dwell IP for fibrin  
8. Lactulose 30 mL PO BID 
RX *lactulose 20 gram/30 mL 30 ml by mouth twice a day Disp #*1 
Bottle Refills:*2
9. Levofloxacin 250 mg PO Q24H Duration: 8 Days 
RX *levofloxacin [Levaquin] 250 mg 1 tablet(s) by mouth once a 
day Disp #*8 Tablet Refills:*0
10. Lorazepam 1 mg PO HS:PRN insomnia 
11. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole [Flagyl] 500 mg 1 tablet(s) by mouth every 
eight (8) hours Disp #*24 Tablet Refills:*0
12. Miconazole Powder 2% 1 Appl TP BID 
13. Tucks Hemorrhoidal Oint 1% 1 Appl PR PRN hemorrhoidal pain 
14. Vitamin D 50,000 UNIT PO 1X/WEEK (___) 
RX *ergocalciferol (vitamin D2) [Vitamin D2] 50,000 unit 1 
capsule(s) by mouth once a week Disp #*12 Capsule Refills:*0
15. Epoetin Alfa 40,000 units SC Q ___ 
16. Senna 1 TAB PO BID:PRN constipation 
17. OLANZapine 5 mg PO ASDIR 
Please assess patient for leg tingling, restlessness and give 
this additional dose. Will likely need while doing CAPD 
18. Topiramate (Topamax) 25 mg PO DAILY 
19. DIALYVITE 800 *NF* (B complex-C-folic acid-Zn) 0.8 mg Oral 
Daily 
20. Ferrous Sulfate 325 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
diverticulitis
colonic microperforation
ESRD

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Please call Dr. ___ office ___ if you have 
any of the following: temperature of 101 or greater, chills, 
increased abdominal pain, nausea, vomiting, peritoneal effluent 
appears cloudy or bloody, or has a foul smell, bloody stool or 
diarrhea
-continue with peritoneal dialysis
-finish antibiotics as prescribed
-atenolol and nifedipine stopped for low blood pressure
 
Followup Instructions:
___